US04772613
2-(2-Carboxyphenyl)acetic acid (9 g) and 4-chloroaniline (6.3 g) in mesitylene (200 ml) were heated at reflux for 18 h, under Dean and Stark conditions. On cooling, the crude product crystallised out and was filtered off. Recrystallisation from ethanol/ethyl acetate gave 2-(4-chlorophenyl)isoquinoline-1,3(2H,4H)-dione, m.p. 178°-180° C. A mixture of this product (2.8 g) and phosphoryl chloride (10 ml) was heated at reflux for 21 h, and excess phosphoryl chloride was then evaporated at reduced pressure. The residue was stirred in ice-water for 4 h, and the precipitate filtered off and suspended in 2% aqueous sodium bicarbonate for 5 minutes. It was again filtered off, taken up in dichloromethane (150 ml) dried and evaporated. Column chromatography of the residue gave a brown solid, which was recrystallised from isooctane/ethyl acetate, to give 3-chloro-2-(4-chlorophenyl)isoquinolin-1(2H)-one m.p. 125°-127° C.

reactant | 2-(2-Carboxyphenyl)acetic acid | 9 g | C(=O)(O)C1=C(C=CC=C1)CC(=O)O | C9H8O4
reactant | 4-chloroaniline | 6.3 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | mesitylene | 200 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2-(4-chlorophenyl)isoquinoline-1,3(2H,4H)-dione | ClC1=CC=C(C=C1)N1C(C2=CC=CC=C2CC1=O)=O | C15H10ClNO2
